US07501414B2
11e 2-Cyclopentyl-N-(2-methyl-4-morpholin-4-yl-6-trifluoromethyl-phenyl)-acetamide
2-Methyl-4-morpholin-4-yl-6-trifluoromethyl-phenylamine (0.18 g) and cyclopentylacetyl chloride (112 mg) were dissolved in acetonitrile (4 mL) and heated to 150° C. for 10 minutes in a sealed microwave process vial. The reaction mixture was diluted with ethyl acetate (20 mL) and washed with water (2×20 mL) and brine (1×20 mL). The organic phase was dried over magnesium sulfate, concentrated in vacuo and purified by flash chromatography to furnish 132 mg (52%) of the title compound as a white solid. LC-MS (m/z) 371 (MH+); tR=2.87, (UV, ELSD) 99%, 99%. 1H NMR (500 MHz, DMSO-d6): 1.20 (m, 2H), 1.51 (m, 2H), 1.60 (m, 2H), 1.76 (m, 2H), 2.11 (s, 3H), 2.24 (m, 1H), 2.26 (d, 2H), 3.16 (t, 4H), 3.73 (t, 4H), 7.00 (d, 1H), 7.12 (d, 1H), 9.16 (s, 1H).

reactant | 2-Methyl-4-morpholin-4-yl-6-trifluoromethyl-phenylamine | 0.18 g | CC1=C(C(=CC(=C1)N1CCOCC1)C(F)(F)F)N | C12H15F3N2O
reactant | cyclopentylacetyl chloride | 112 mg | C1(CCCC1)CC(=O)Cl | C7H11ClO
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-Cyclopentyl-N-(2-methyl-4-morpholin-4-yl-6-trifluoromethyl-phenyl)-acetamide | 132 mg, 52% | C1(CCCC1)CC(=O)NC1=C(C=C(C=C1C(F)(F)F)N1CCOCC1)C | C19H25F3N2O2
